US08476280B2
Aqueous hydrochloric acid (3 M, 7 mL) was added to a solution of 4-{(R)-((2R,5S)-4-allyl-2,5-dimethyl-piperazin-1-yl)-[3-(tert-butyl-dimethylsilanyloxy)-phenyl]-methyl}-N,N-dimethyl-benzenesulfonamide (1.3 g) in THF (15 mL). The mixture was stirred at room temperature overnight. Water (15 mL) was added to the reaction. The reaction mixture was extracted with diethyl ether (25 mL×3). The remaining H2O layer was neutralized by 10% aqueous NaOH to pH=8-9 and then extracted by EtOAc (30 mL×3). The combined EtOAc layers were washed by water (20 mL×3) and brine (20 mL×1), dried over Na2SO4 and concentrated to give 0.83 g of crude product. The crude product was purified by silica gel chromatography conducted on CombiFlash™ Sq 16x (gradient: 100% CH2Cl2 to 7% MeOH in CH2Cl2) to give 4-[(R)-((2R,5S)-4-allyl-2,5-dimethylpiperazin-1-yl)-(3-hydroxy-phenyl)methyl]-N,N-dimethylbenzenesulfonamide (720 mg; 70%). 1H NMR (300 MHz, CDCl3) δ 7.71 (d, 2H, J=8.5 Hz), 7.35 (d, 2H, J=8.5 Hz), 7.14 (dd, 1H, J=8.0, 8.0 Hz), 6.89 (bs, 1H), 6.85 (d, 1H, J=8.0 Hz), 6.68 (d, 1H, J=8.0, 2.5 Hz), 5.83 (1H, m), 5.24-5.12 (m, 3H), 3.32 (dd, 1H, J=13.5, 5.0 Hz), 2.86 (dd, 1H, J=13.5, 8.0 Hz), 2.78 (dd, 1H, J=11.5, 3.0 Hz), 2.72 (s, 6H), 2.65 (dd, 1H, J=11.0, 2.5 Hz), 2.51 (m, 2H), 2.14 (dd, 1H, J=11.5, 9.0 Hz), 1.81 (dd, 1H, J=11.0, 9.5 Hz), 1.16 (d, 3H, J=6.0 Hz), 0.98 (d, 3H, J=6.0 Hz); MS (FAB, glycerol) m/z: 444 (M++H), 290, 153; Found: C, 58.32; H, 6.66; N, 8.18. Calc. (C24H33N3O3S 0.8 CH2Cl2): C, 58.23; H, 6.82; N, 8.21.

reactant | hydrochloric acid | 3 M, 7 mL | Cl | ClH
reactant | 4-{(R)-((2R,5S)-4-allyl-2,5-dimethyl-piperazin-1-yl)-[3-(tert-butyl-dimethylsilanyloxy)-phenyl]-methyl}-N,N-dimethyl-benzenesulfonamide | 1.3 g | C(C=C)N1C[C@H](N(C[C@@H]1C)[C@H](C1=CC=C(C=C1)S(=O)(=O)N(C)C)C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C | C30H47N3O3SSi
reactant | Water | 15 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-[(R)-((2R,5S)-4-allyl-2,5-dimethylpiperazin-1-yl)-(3-hydroxy-phenyl)methyl]-N,N-dimethylbenzenesulfonamide | 720 mg, 70% | C(C=C)N1C[C@H](N(C[C@@H]1C)[C@H](C1=CC=C(C=C1)S(=O)(=O)N(C)C)C1=CC(=CC=C1)O)C | C24H33N3O3S
